US07388061B2
To the mixture of 2.5 g sodium borohydride, 0.05 g sodium hydroxide, and 25 ml water was added dropwise the mixture of 14.2 g 3,6-dimethyl-2,4-heptandione and 30 ml methanol at 0-10° C. Upon completing the addition, the solvent was removed by reduced pressure distillation. The reaction mixture was continuously extracted with 40 ml ethyl acetate for 15 hours. The solvent was removed. Distillation under reduced pressure gave colorless liquid 3,6-dimethyl-2,4-heptanediol, and the yield was 90%. IR spectrum had a strong absorption peak at 3400 cm−1, and had no absorption peak at about 1700 cm−1. This demonstrated that the reduction reaction was carried out completely.

reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | sodium hydroxide | 0.05 g | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
reactant | 3,6-dimethyl-2,4-heptandione | 14.2 g | CC(C(C)=O)C(CC(C)C)=O | C9H16O2
solvent | methanol | 30 ml | CO | CH4O
product | 3,6-dimethyl-2,4-heptanediol | yield was 90% | CC(C(C)O)C(CC(C)C)O | C9H20O2
